US04246268
To 250 ml of 6N hydrochloric acid is added 27.6 (0.1 mole) of α-(4-chloro-1-naphthyl)-4-piperidinemethanol and enough 95% ethanol to form a clear solution. The solution is refluxed for 18 hours, cooled, and made basic with 10% sodium hydroxide, extracted into toluene, and the organic phase washed with brine, dried over MgSO4, and concentrated in vacuo. The residue is dissolved in acetic acid and shaken with hydrogen gas in a Parr apparatus in the presence of 0.5 g of rhodium/carbon at room temperature until 0.1 mole of hydrogen is taken up. The catalyst is filtered off, an excess of alcoholic hydrogen chloride is added and the solution concentrated in vacuo. The residue is recrystallized from methanol to yield 4-[(4-chloro-1-naphthyl)methyl]piperidine hydrochloride.

reactant | hydrochloric acid | 6N, 250 ml | Cl | ClH
reactant | α-(4-chloro-1-naphthyl)-4-piperidinemethanol | ClC1=CC=C(C2=CC=CC=C12)C(O)C1CCNCC1 | C16H18ClNO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 0.1 mole | [H][H] | H2
catalyst | rhodium/carbon | 0.5 g | [Rh] | Rh
solvent | ethanol | C(C)O | C2H6O
product | 4-[(4-chloro-1-naphthyl)methyl]piperidine hydrochloride | Cl.ClC1=CC=C(C2=CC=CC=C12)CC1CCNCC1 | InChI=1S/C16H18ClN.ClH/c17-16-6-5-13(11-12-7-9-18-10-8-12)14-3-1-2-4-15(14)16;/h1-6,12,18H,7-11H2;1H
